US05338739
To a solution of 2-(3-methoxyphenyl)pyrrolidine (1.0 g) in dry acetonitrile (50 ml) was added milled potassium carbonate (2.0 g) followed by benzoyl chloride (0.73 ml) at ambient temperature, under nitrogen. The reaction mixture was stirred for 2 hrs, filtered through a pad of celite, and the filter cake was washed with ethyl acetate. The combined filtrates were concentrated, and the residue was purified by flash column chromatography (silica gel, 0-25% ethyl acetate/dichloromethane). The appropriate fractions were collected and concentrated to give 1.2 g (75%) of 1-benzoyl-2-(3-methoxyphenyl)pyrrolidine.

reactant | 2-(3-methoxyphenyl)pyrrolidine | 1.0 g | COC=1C=C(C=CC1)C1NCCC1 | C11H15NO
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 0.73 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-benzoyl-2-(3-methoxyphenyl)pyrrolidine | 1.2 g, 75% | C(C1=CC=CC=C1)(=O)N1C(CCC1)C1=CC(=CC=C1)OC | C18H19NO2
